US04654343
N-[3-(1,6-Dihydro-6-oxo-3-pyridazinyl)phenyl]propanamide
A mixture of 7.8 g of 6-(3-aminophenyl)-3(2H)-pyridazinone and 45 ml of propionic anhydride was heated at 105°-110° C. for 4.5 hours. After standing overnight the excess propionic anhydride was removed in vacuo. The residue was dissolved in 50 ml of methanol and 12 g of potassium hydroxide added portionwise. This solution was refluxed for 1.5 hours, then the solvent was removed in vacuo. The residue was dissolved in cold water and the solution neutralized with concentrated hydrochloric acid. The solid was collected and washed with water and ether. A 1.5 g portion was crystallized from dichloromethane:methanol (95:5) and then chromatographed on a silica gel column, eluting with dichloromethane:methanol (95:5), giving the desired compound as white crystals, mp 229°-230° C.

reactant | 6-(3-aminophenyl)-3(2H)-pyridazinone | 7.8 g | NC=1C=C(C=CC1)C=1C=CC(NN1)=O | C10H9N3O
reactant | propionic anhydride | 45 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | N-[3-(1,6-Dihydro-6-oxo-3-pyridazinyl)phenyl]propanamide | O=C1C=CC(=NN1)C=1C=C(C=CC1)NC(CC)=O | C13H13N3O2
